US05882628
b. N,N'-Bis(2-hydroxypropionyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2-acetoxypropionyl)-N-(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate (120 mg, 0.14 mmol) was dissolved in a mixture of water (7 ml) and methanol (7 ml) and pH was adjusted to 12 using an 1M aqueous solution of NaOH. The mixture was stirred for 2 h, pH was adjusted to 7 with aqueous HCl and the solvents were evaporated. The product was purified by preparative HPLC. Yield: 70 mg (72%).

reactant | N,N'-Bis(2-acetoxypropionyl)-N-(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.14 mmol, 120 mg | C(C)(=O)OC(C(=O)N(C=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(C(C)OC(C)=O)=O)I)I)CCOC(C)=O)C
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 7 ml | CO | CH4O
solvent | water | 7 ml | O | H2O
product | N,N'-Bis(2-hydroxypropionyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OC(C(=O)N(C=1C(=C(CO)C(=C(C1I)NC(C(C)O)=O)I)I)CCO)C | C15H19I3N2O6
